US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (2.5 g) as starting compound and 4-phenylthiobutyl bromide (2.48 g) were reacted and treated in the same manner as in Example 168 to give 0.84 g of 4-amino-5-chloro-2-methoxy-N-((1-(4-phenylthiobutyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 2.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 4-phenylthiobutyl bromide | 2.48 g | C1(=CC=CC=C1)SCCCCBr | C10H13BrS
product | 4-amino-5-chloro-2-methoxy-N-((1-(4-phenylthiobutyl)piperidin-4-yl)methyl)benzamide | 0.84 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCSC2=CC=CC=C2)C=C1Cl)OC | C24H32ClN3O2S
